US04701542
170.6 g of (1R,5S) 6,6-dimethyl-4-(R)-hydroxy-3-oxa-bicyclo (3,1,0) hexane-2-one were added to 800 ml of water and a solution of 127.2 g of sodium carbonate in 400 ml of water was slowly added thereto at 0° C. The mixture was stirred at 0° C. for 15 minutes and 45.4 g of sodium borohydride were added thereto at 0° C. in small fractions. The mixture was stirred for 4 hours at 0° C. and adjusted to a pH of 2 addition of 2N hydrochloric acid. The mixture was saturated with sodium chloride and stood overnight and was extracted with methylene chloride. The extract was evaporated to dryness under reduced pressure and the residue was rectified under reduced pressure to obtain 130.2 g of (1R,5S) 6,6-dimethyl-3-oxa-bicyclo (3,1,0) hexane-2-one with a specific rotation of [α]D20 =- 92° (C=1% in ethanol).

reactant | (1R,5S) 6,6-dimethyl-4-(R)-hydroxy-3-oxa-bicyclo (3,1,0) hexane-2-one | 170.6 g | CC1([C@H]2[C@@H](OC([C@@H]12)=O)O)C | C7H10O3
reactant | sodium carbonate | 127.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium borohydride | 45.4 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 800 ml | O | H2O
product | (1R,5S) 6,6-dimethyl-3-oxa-bicyclo (3,1,0) hexane-2-one | 130.2 g | CC1([C@H]2COC([C@@H]12)=O)C | C7H10O2
